US05198208
N-Boc-O-benzylserine methyl ester (9.5 g, 32 mmol) was dissolved in dry toluene (distilled from sodium) (100 ml). The solution was cooled to -70° C., and a solution of diisobutylaluminium hydride in toluene (1.2M, 53 ml, 64 mmol) was added dropwise over a period of 45 minutes under vigorous stirring under nitrogen. The mixture was stirred for an additional 20 minutes and was then allowed to reach -50° C. Hydrochloric acid (2M, 150 ml) was carefully added and the resulting reaction mixture was allowed to reach -10° C. The organic layer was separated and the aqueous layer was extracted with ethylacetate (2×100 ml). The combined organic solution was dried with sodium sulphate and evaporated to dryness below 40° C. (bath temperature). The N-Boc-O-benzylserinal was isolated as a colourless oil. Yield 8 6 g (96%). The structure was confirmed by 1HNMR and 13CNMR.

reactant | N-Boc-O-benzylserine methyl ester | 32 mmol, 9.5 g | COC([C@@H](NC(=O)OC(C)(C)C)COCC1=CC=CC=C1)=O | C16H23NO5
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Hydrochloric acid | 2M, 150 ml | Cl | ClH
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 64 mmol, 1.2M, 53 ml | C1(=CC=CC=C1)C | C7H8
product | N-Boc-O-benzylserinal | C(=O)(OC(C)(C)C)N[C@@H](COCC1=CC=CC=C1)C=O | C15H21NO4
